US04847256
N-[3-(3-Cyanopyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-N-methylacetamide
A mixture of 540 mg of 3-aminopyrazole-4-carbonitrile, 1.23 g of N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-methylacetamide and 50 ml of glacial acetic acid was heated at reflux for 8 hours then the solvent was removed: The residue was partitioned between saturated aqueous sodium bicarbonate and dichloromethane. The organic layer was separated, dried, passed through a pad of hydrous magnesium silicate and hexane was added to the refluxing filtrate to crystallize the product. The mixture was cooled and the solid collected, giving the desired product, mp 195°-197° C.

reactant | 3-aminopyrazole-4-carbonitrile | 540 mg | NC1=NNC=C1C#N | C4H4N4
reactant | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-methylacetamide | 1.23 g | CN(C=CC(=O)C=1C=C(C=CC1)N(C(C)=O)C)C | C14H18N2O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-[3-(3-Cyanopyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-N-methylacetamide | C(#N)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)N(C(C)=O)C | C16H13N5O
